US06875775B2
2-(3-Methoxyphenyl)-1-[4-(2-piperidin-1-ylethoxy)phenyl]ethanone
1-(4-hydroxyphenyl)-2-(3-methoxyphenyl)ethanone and 1-(2-chloroethyl)piperidine hydrochloride are used as starting materials.

reactant | 1-(4-hydroxyphenyl)-2-(3-methoxyphenyl)ethanone | OC1=CC=C(C=C1)C(CC1=CC(=CC=C1)OC)=O | C15H14O3
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
product | 2-(3-Methoxyphenyl)-1-[4-(2-piperidin-1-ylethoxy)phenyl]ethanone | COC=1C=C(C=CC1)CC(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C22H27NO3
